US07196111B2
A mixture of 274 mg (0.747 mmol) of 3-(4-benzyloxy-phenyl)-2-cyclohexyl-3-oxo-propionic acid methyl ester, 106 mg (0.747 mmol) of 5-amino-1H-pyrazole-3-carboxylic acid methyl ester, 15 mg (10 mol %) of p-toluenesulfonic acid monohydrate (PTSA), and 10 mL of toluene was heated at reflux for 88 h. The reaction mixture was then concentrated to a residue which was chromatographed on silica gel (Biotage; gradient elution 2% to 20% ethyl acetate in dichloromethane) to afford 55 mg (16% yield) of desired 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester as a solid as indicated by 1H NMR; LC-MS—calcd for C27H27N3O4 [M++H]+: 458.2, found: 458.2.

reactant | 3-(4-benzyloxy-phenyl)-2-cyclohexyl-3-oxo-propionic acid methyl ester | 0.747 mmol, 274 mg | COC(C(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1CCCCC1)=O | C23H26O4
reactant | 5-amino-1H-pyrazole-3-carboxylic acid methyl ester | 0.747 mmol, 106 mg | COC(=O)C1=NNC(=C1)N | C5H7N3O2
reactant | p-toluenesulfonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 55 mg, 16% yield | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)OCC2=CC=CC=C2)=C1 | C27H27N3O4
